US08258160B2
Synthesis of 4-methyl-2-(1-(4-(trifluoromethyl)benzyl)-1H-1,2,3-triazol-4-yl)thiazole-5-carboxylic acid
Following the procedure as described in Example 3, making variations as necessary to replace ethyl 2-(1-benzyl-1H-1,2,3-triazol-4-yl)-4-methylthiazole-5-carboxylate with ethyl 4-methyl-2-(1-(4-(trifluoromethyl)benzyl)-1H-1,2,3-triazol-4-yl)thiazole-5-carboxylate, the title compound was obtained as a white solid in 98% yield: MS (ES−) m/z 367.2 (M−1).

reactant | ethyl 2-(1-benzyl-1H-1,2,3-triazol-4-yl)-4-methylthiazole-5-carboxylate | C(C1=CC=CC=C1)N1N=NC(=C1)C=1SC(=C(N1)C)C(=O)OCC | C16H16N4O2S
reactant | ethyl 4-methyl-2-(1-(4-(trifluoromethyl)benzyl)-1H-1,2,3-triazol-4-yl)thiazole-5-carboxylate | CC=1N=C(SC1C(=O)OCC)C=1N=NN(C1)CC1=CC=C(C=C1)C(F)(F)F | C17H15F3N4O2S
product | 4-methyl-2-(1-(4-(trifluoromethyl)benzyl)-1H-1,2,3-triazol-4-yl)thiazole-5-carboxylic acid | 98% yield | CC=1N=C(SC1C(=O)O)C=1N=NN(C1)CC1=CC=C(C=C1)C(F)(F)F | C15H11F3N4O2S
